data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c00121_sup_1.json
{"doi": "10.1021_acs.orglett.3c00121_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical [2+1] cyclopropanation (with diazo compounds) and [2+2] cycloaddition (with styrenes) of alkenes proceeding via anodically generated alkene radical cations", "mechanism_family": ["radical_cation", "radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich alkene to an alkene radical cation; subsequent cathodic reduction of a downstream radical cation closes the cycle (paired electrolysis in undivided cell)", "key_intermediates": [{"name": "alkene radical cation B (from anodic oxidation of styrene/anethole A)", "smiles": null, "role": "reactive"}, {"name": "distonic radical cation D from addition of diazo compound C to B (retains N2)", "smiles": null, "role": "transient"}, {"name": "1,3-distonic radical cation E after N2 extrusion (precursor to cyclopropane)", "smiles": null, "role": "transient"}, {"name": "cyclopropane product F (after cathodic reduction of E)", "smiles": null, "role": "reactive"}, {"name": "acyclic radical cation H from addition of styrene G to B ([2+2] pathway)", "smiles": null, "role": "transient"}, {"name": "cyclobutane product I (after cathodic reduction of H)", "smiles": null, "role": "reactive"}, {"name": "proton-migrated ring-opened byproduct (allylic ester, <6%)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the electron-rich alkene A to radical cation B; B is intercepted by a nucleophile (diazo compound for [2+1], styrene for [2+2]) to give a new radical cation (D→E after N2 loss, or H); cathodic reduction then delivers the neutral cyclopropane F or cyclobutane I.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Complete suppression of both [2+1] and [2+2] reactions (0% yield) when added at the start, supporting a radical (radical cation) intermediate"}, {"name": "E- vs Z-stilbene (cis/trans olefin probe)", "smiles": null, "purpose": "other", "observation": "Both E- and Z-stilbene give exclusively trans-cyclopropane (E: 82%, Z: 67% yield), consistent with a freely rotating open-chain radical cation intermediate rather than concerted cycloaddition; trans-olefin reacts faster"}, {"name": "Divided (H-cell) vs undivided cell", "smiles": null, "purpose": "redox_probe", "observation": "[2+1] drops to <10% in H-cell (vs 79% undivided) — requires cathodic reduction step; [2+2] gives 19% in H-cell (vs 78% undivided), suggesting a partial radical-chain contribution for [2+2]"}], "evidence_types_used": ["intermediate_trap_TEMPO", "stoichiometric_intermediate", "on/off_light_or_current", "product_isotope_distribution", "other"], "evidence_strength": "medium", "notes": "Stereochemical scrambling (E/Z → same trans-cyclopropane) is taken as evidence for a stepwise radical-cation mechanism rather than a concerted [2+1]/[2+2]. Authors explicitly do not exclude a radical-chain pathway in which radical cations E/H are reduced by another molecule of alkene A instead of at the cathode; the chain contribution appears more significant for the [2+2] (H-cell yield 19%) than for the [2+1] (H-cell yield <10%). A minor proton-migrated (ring-opened α,β-unsaturated ester) byproduct (<6%) is observed in the [2+1] reaction, consistent with deprotonation of the 1,3-distonic radical cation E competing with cyclization/reduction."}
